US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-methoxy-5-nitroaniline to yield 2-[(2-methoxy-5-nitrophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-methoxy-5-nitroaniline | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
product | 2-[(2-methoxy-5-nitrophenyl)amino]phenylacetic acid | COC1=C(C=C(C=C1)[N+](=O)[O-])NC1=C(C=CC=C1)CC(=O)O | C15H14N2O5
